US07687491B2
(3a) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)thiophene-3-carbonitrile
To a solution of [(4-bromo-2-thienyl)methoxy]t-butyldimethylsilane (9.0 g, 29 mmol) [reference literature: J. Med. Chem., vol. 45, 5005 (2002)] in N,N-dimethylformamide (20 ml) was added copper cyanide (4.7 g, 53 mmol) with stirring, and the resulting mixture was refluxed for 2 hours. After cooling to room temperature, the reaction mixture was diluted with ether (80 ml), and after adding a 28% aqueous solution of ammonia (50 ml), the resulting mixture was stirred at room temperature for 1 hour. After stirring, the reaction mixture was extracted with ether, and the extract was washed successively with water and a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:50 to 1:4) as the eluent to afford the title compound (4.3 g) in a yield of 58% as a colourless oily product.

reactant | [(4-bromo-2-thienyl)methoxy]t-butyldimethylsilane | 29 mmol, 9.0 g | BrC=1C=C(SC1)CO[Si](C)(C)C(C)(C)C | C11H19BrOSSi
reactant | copper cyanide | 53 mmol, 4.7 g | [Cu](C#N)C#N
reactant | ammonia | 50 ml | N | H3N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ether | 80 ml | CCOCC | C4H10O
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)thiophene-3-carbonitrile | yield of 58% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CS1)C#N | C12H19NOSSi
